US04640703
10.5 g (0.25 mole) of cyanamide are dissolved in 250 ml of 2N potassium hydroxide solution and the solution so obtained is cooled to +10° C. At this temperature 26.5 ml (0.25 mole) of 2-bromopropionyl bromide are added dropwise and the reaction mixture is stirred for one hour at the same temperature. Then 16.8 g (0.2 mole) of sodium bicarbonate are added. 63 g (0.5 mole) of dimethylsulfate are subsequently added dropwise at 20° C. and the reaction mixture is stirred for 4 hours and extracted with methylene chloride. The combined orgnaic phases are dried over sodium sulfate and concentrated by evaporation, affording as residue 27.5 g of crude product. Vacuum distillation of this crude products yields 13.6 g (28.5% of theory) of 2-bromopropionic acid N-cyano-N-methylamide with a boiling point of 45°-47° C. at 0.008 mbar.

reactant | cyanamide | 0.25 mole, 10.5 g | N#CN | CH2N2
reactant | 2-bromopropionyl bromide | 0.25 mole, 26.5 ml | BrC(C(=O)Br)C | C3H4Br2O
reactant | sodium bicarbonate | 0.2 mole, 16.8 g | C([O-])(O)=O.[Na+]
reactant | dimethylsulfate | 0.5 mole, 63 g | COS(=O)(=O)OC | C2H6O4S
solvent | potassium hydroxide | 2N, 250 ml | [OH-].[K+]
product | 2-bromopropionic acid N-cyano-N-methylamide | 13.6 g, 28.5% | C(#N)N(C(C(C)Br)=O)C | C5H7BrN2O
